US04728653
A solution of iodine monochloride (4.46 g) in acetic acid (30 cm3) was added dropwise to a stirred solution of 2-methyl-4-(tetrazol-1-yl)aniline (4 g) in acetic acid (30 cm3). After 2 hours the mixture was brought to pH 6 by addition of aqueous sodium carbonate solution and extracted with dichloromethane (250 cm3). The organic phase was dried (MgSO4), filtered and evaporated to yield a dark brown solid. This solid was chromatographed on silica (Merck "MK 60.9385" [Trade Mark]) eluting with dichloromethane to afford 1-(4-amino-3-iodo-5-methylphenyl)tetrazole, m.p. 172°-175°, (6.2 g).

reactant | iodine monochloride | 4.46 g | ICl | ClI
reactant | 2-methyl-4-(tetrazol-1-yl)aniline | 4 g | CC1=C(N)C=CC(=C1)N1N=NN=C1 | C8H9N5
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetic acid | 30 cm3 | C(C)(=O)O | C2H4O2
solvent | acetic acid | 30 cm3 | C(C)(=O)O | C2H4O2
product | 1-(4-amino-3-iodo-5-methylphenyl)tetrazole | NC1=C(C=C(C=C1C)N1N=NN=C1)I | C8H8IN5
